Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cephalosporins / Penicillins
 
Attending: ___
 
Chief Complaint:
abdominal distention
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo woman with hx CVA c/b left
hemiparesis/dysphagia/non-verbal s/p trach and PEG c/b ___
syndrome who is being transferred for evaluation of abdominal
distention. 

On evaluation of records sent from ___,
patient's place of residence, she has been having increased
abdominal distention for unknown time period. KUB was obtained
___ which showed gaseous distention of the colon with possible
small bowel distention. Due to concern that this might represent
mechanical colonic obstruction with secondary SBO, patient was
transferred to ___ for further evaluation. Per report, she has
otherwise been stable, with no changes in mentation or vital
signs.

In the ED vital signs were within normal limits.  Labs notable
for an alk phos of 115 and albumin of 3.1 but were otherwise
unremarkable.  KUB with 'gaseous distention of bowel throughout
the abdomen, including dilatation of the sigmoid colon, with
relative paucity of gas in the pelvis, at the level the rectum.
Differential diagnosis includes large bowel obstruction with
transition point at the rectum. ___ is another
consideration.'

CT A/P with contrast showed 
1. No small bowel obstruction. Mild interval increase in massive
dilation of
colon throughout its course. Previously seen fluid in the rectal
vault now
appears to be stool balls intermixed with other fecal matter in
the lower
rectum. These findings are consistent with previously diagnosed
pseudo-obstruction.
2. Moderate pericardial effusion, similar to prior.

ACS was consulted and recommended go-lytely administered down 
the
G-tube for more productive stools, AM KUB, discharge from ED vs
admission to medicine. Patient had 2 large bowel movements after
administration of Golytelytly 4 L through NGT.

RT was consulted in the ED and placed pt on 35% TM through a
___ #7 Cuffless Trach

On arrival to the floor, patient is unable to corroborate
history. She denies current abdominal pain, HA, light 
headedness,
SOB, palpitations with a shake of her head.

On discussion with nursing staff at ___ (an RN named
___, patient came from ___ on ___ to move in
at 11:45 AM on ___. On initial evaluation, Ms. ___ was noted 
to
have significant abdominal distention with minimal bowel sounds.
They do not know her well as she had been at ___ 
___
for some time before moving. 

 
Past Medical History:
S/p CVA with PEG, Tracheostomy, hemiparesis
DM
Dysphagia
Anxiety 
Depression
Pseudo-obstruction
 
Social History:
___
Family History:
Unable to obtain given mental state 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 99.3 BP 134/73 HR 99 RR 16 97%TM 
GENERAL: NAD. Non-verbal. Able to follow basic commands.
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen distended, soft, nontender. No rebound or guarding.
Present bowel sounds.
EXTREMITIES: no cyanosis, clubbing, or edema.
PULSES: 2+ radial pulses bilaterally
NEURO: Alert. Left arm contracted. Able to move right arm and 
leg
to gravity.
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISHARGE PHYSICAL EXAM:
VS: 24 HR Data (last updated ___ @ 727)
    Temp: 98.1 (Tm 98.3), BP: 113/69 (100-116/65-70), HR: 77
(74-93), RR: 18 (___), O2 sat: 98% (92-99), O2 delivery: 
35%Tm,
Wt: 132.94 lb/60.3 kg (132.94-159.61)  
GENERAL: Sleeping in bed, in no apparent distress.
HEENT: Normocephalic and atraumatic. Anicteric sclerae. Trach
collar in place.
CARDIAC: Regular rate and rhythm. Normal S1 and S2. No murmurs,
rubs, or gallops  
LUNG: Clear to auscultation bilaterally. No crackles, wheezes, 
or
rhonchi.  
ABDOMEN: Diffusely distended. Tympanitic on percussion. Soft,
nontender, without rebound or guarding. Bowel sounds appreciated
throughout.
EXTREMITIES: Warm, well perfused. No cyanosis, clubbing, or
edema. 2+ DP pulses.
 
Pertinent Results:
Admission Labs
---------------
___ 12:25AM BLOOD WBC-5.6 RBC-5.05 Hgb-12.4 Hct-40.3 
MCV-80* MCH-24.6* MCHC-30.8* RDW-15.0 RDWSD-43.0 Plt ___
___ 12:25AM BLOOD Glucose-79 UreaN-18 Creat-0.7 Na-142 
K-4.2 Cl-106 HCO3-23 AnGap-13
___ 12:25AM BLOOD ALT-13 AST-25 AlkPhos-115* TotBili-0.2
___ 12:25AM BLOOD Albumin-3.1*

Discharge labs
----------------
___ 06:30AM BLOOD WBC-3.3* RBC-4.30 Hgb-10.8* Hct-34.9 
MCV-81* MCH-25.1* MCHC-30.9* RDW-14.7 RDWSD-43.1 Plt ___
___ 06:30AM BLOOD Glucose-89 UreaN-10 Creat-0.5 Na-143 
K-3.6 Cl-108 HCO3-24 AnGap-11

Imaging
----------------
CT abd/Pelvis:
1. No small bowel obstruction.  Mild interval increase in 
massive dilation of 
colon throughout its course with large amount of fecal material. 
 Previously 
seen fluid in the rectal vault now appears to be stool balls 
intermixed with 
other fecal matter in the lower rectum.  These findings are 
consistent with 
previously diagnosed pseudo-obstruction although worse in 
appearance. 
2. Moderate pericardial effusion, similar to prior. 

Abd Supine XR
Gaseous distension of bowel throughout the abdomen, including 
dilatation of 
the sigmoid colon, with relative paucity of gas in the pelvis, 
at the level 
the rectum. Differential diagnosis includes ___ vs. large 
bowel 
obstruction with transition point at the rectum.  Dilated bowel 
appears to be 
sigmoid rather than cecum on the outside hospital CT. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with hx CVA c/b left 
hemiparesis/dysphagia/non-verbal s/p trach and PEG c/b ___
syndrome who was admitted for evaluation of abdominal 
distention. 

# Abdominal distention
# History of intestinal pseudo-obstruction
Ms. ___ has a history of ___ (interstinal 
pseudo-obstruction) and was admitted for concern for worsening 
abdominal distention. She was seen by surgery in the ED, her 
tubefeeds were held, and she was given an aggressive bowel 
regimen (golytely) through her PEG. She soon after started 
stooling. She never had any evidence of tenderness. She had 
recently been transferred from one ___ to another. We called 
___ who confirmed that she has baseline distended and 
non-tender abdomen. No medication changes were made. Please 
continue her current bowel regimen. 

CHRONIC ISSUES:
===============
#S/p Stroke
-Continue home apixaban 5mg BID.
#DM
-Continue previous insulin regimen
#Depression
-Continue home sertraline 25 mg daily
  
Transitional issues:
--------------------
New meds: None
Changed meds: None
Discontinued meds: None

[] Patient is high risk for constipation. Please continue 
current bowel regimen. Please obtain KUB Q2weeks. 

Contact:
Proxy name: ___   
Phone: ___ 

Contact information:
Daughter/HCP: ___ ___

> 30 minutes spent on discharge planning and coordination
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosource 1.5 Cal (lactose-reduced food with fibr) 0.07 
gram-1.5 kcal/mL Other DAILY 
2. ProMod Protein (protein supplement) 30 ml oral TID 
3. Sorbitol 30  ml PO DAILY 
4. Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using REG Insulin
5. Scopolamine Patch 1 PTCH TD Q72H 
6. OXcarbazepine 300 mg PO BID 
7. Baclofen 20 mg PO TID 
8. Docusate Sodium 100 mg PO BID 
9. Sertraline 25 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. Apixaban 5 mg PO BID 
12. Aspirin 81 mg PO DAILY 
13. Senna 8.6 mg PO BID 
14. iron succinyl-protein complex ___ mg/15 mL oral DAILY 
15. Ranitidine 75 mg PO BID 
16. Fleet Enema (Saline) ___AILY:PRN See below 
17. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
18. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line 
19. Bisacodyl 10 mg PR QHS:PRN Constipation - Third Line 
20. Acetylcysteine 20% 100 mg PO Q6H:PRN SOB 
21. Simethicone 80 mg PO QID:PRN gas 

 
Discharge Medications:
1.  Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using REG Insulin 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Acetylcysteine 20% 100 mg PO Q6H:PRN SOB  
4.  Apixaban 5 mg PO BID  
5.  Aspirin 81 mg PO DAILY  
6.  Baclofen 20 mg PO TID  
7.  Bisacodyl 10 mg PR QHS:PRN Constipation - Third Line  
8.  Docusate Sodium 100 mg PO BID  
9.  Fleet Enema (Saline) ___AILY:PRN See below  
10.  iron succinyl-protein complex ___ mg/15 mL oral DAILY  
11.  Isosource 1.5 Cal (lactose-reduced food with fibr) 0.07 
gram-1.5 kcal/mL Other DAILY  
12.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
13.  OXcarbazepine 300 mg PO BID  
14.  ProMod Protein (protein supplement) 30 ml oral TID  
15.  Ranitidine 75 mg PO BID  
16.  Scopolamine Patch 1 PTCH TD Q72H  
17.  Senna 8.6 mg PO BID  
18.  Sertraline 25 mg PO DAILY  
19.  Simethicone 80 mg PO QID:PRN gas  
20.  Sorbitol 30  ml PO DAILY  
21.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
--------------
Intestinal pseudo-obstruction

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for constipation and big belly

What was done for me while I was in the hospital?  
We gave you medications to help you have bowel movements 

What should I do when I leave the hospital?  
Please continue taking your medications. 

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___